US07638541B2
Step 3: 4-(4-Chloromethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 4-(4-hydroxymethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (848 mg, 2.83 mmol) and DIPEA (550 mg, 1.5 eq.) in CH2Cl2 (10 mL) was added MsCl (285 □L, 1.3 eq.) dropwise. The resulting mixture was stirred overnight. The reaction solution was then concentrated in vacuo. The crude product was purified on silica gel (EtOAc:hexanes=1:4) to afford the desired product as an oil.

reactant | 4-(4-hydroxymethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 2.83 mmol, 848 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC=C(N1)CO | C13H21N3O3S
reactant | DIPEA | 550 mg, 1.5 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | MsCl | 1.3 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Chloromethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC=C(N1)CCl | C13H20ClN3O2S
